US06458784B1
a) Methyl (±)-8-amino-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A mixture of methyl (±)-8-[(benzyloxycarbonyl)amino]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (1.5 g), Pearlman's catalyst (0.30 g), and warm AcOH (300 mL) was stirred under H2 (balloon pressure). After 90 min, the mixture was filtered to remove the catalyst, and the filtrate was concentrated to give the title compound as a viscous oil (1 g, 100%): 1H NMR (CDCl3) δ7.00 (br s, 2H), 6.88 (d, J=8.1 Hz, 1H), 6.57 (dd, J=8.1, 2.3 Hz, 1H), 6.43 (d, J=2.3 Hz, 1H), 5.25 (d, J=16.3 Hz, 1H), 3.78 (m, 1H), 3.70 (s, 3H), 3.68 (d, J=16.3 Hz, 1H), 3.03 (s, 3H), 3.00-2.80 (m, 3H), 2.40 (dd, J=16.7, 5.3 Hz, 1H).

reactant | methyl (±)-8-[(benzyloxycarbonyl)amino]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 1.5 g | C(C1=CC=CC=C1)OC(=O)NC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C22H24N2O5
catalyst | Pearlman's catalyst | 0.30 g | [OH-].[OH-].[Pd+2]
solvent | AcOH | 300 mL | CC(=O)O | C2H4O2
product | Methyl (±)-8-amino-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 1 g, 100% | NC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C14H18N2O3
